US05051422
N-(2,6-Dichlorophenyl)-2-[[(3,4-dimethoxyphenyl)methyl]amino]acetamide
In a manner similar to Preparation 12, react 2-chloro-N-(2,6-dichlorophenyl)acetamide with 3,4-dimethoxybenzenemethanamine to obtain the title compound.

reactant | 2-chloro-N-(2,6-dichlorophenyl)acetamide | ClCC(=O)NC1=C(C=CC=C1Cl)Cl | C8H6Cl3NO
reactant | 3,4-dimethoxybenzenemethanamine | COC=1C=C(C=CC1OC)CN | C9H13NO2
product | N-(2,6-Dichlorophenyl)-2-[[(3,4-dimethoxyphenyl)methyl]amino]acetamide | ClC1=C(C(=CC=C1)Cl)NC(CNCC1=CC(=C(C=C1)OC)OC)=O | C17H18Cl2N2O3
